US07446234B2
A 500-ml-three-necked round-bottomed flask, with an efficient cooling was charged with aluminium chloride (5.82 g, 43.67 mmol) and dichloromethane (100 ml). Acetyl chloride (3.42 g, 43.67 mmol) was added to the vigorously stirred reaction mixture over a period of 15 minutes. Pentadecyl benzene (10 g, 34.66 mmol) was added over a period of 30 minutes; the clear solution was stirred at 0° C. for 2 hours and allowed to warm to room temperature. The reaction mixture was poured in ice and extracted with dichloromethane (3×100 ml), the combined organic layers was washed with 1 N hydrochloric acid (2×30 ml) and water (3×50 ml), dried over sodium sulfate and the solvent was evaporated to obtain 4-acetyl pentadecyl benzene as a low melting faint yellow solid. The yield was 10 g (87% of theoretical).

reactant | aluminium chloride | 43.67 mmol, 5.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Acetyl chloride | 43.67 mmol, 3.42 g | C(C)(=O)Cl | C2H3ClO
reactant | Pentadecyl benzene | 34.66 mmol, 10 g | C(CCCCCCCCCCCCCC)C1=CC=CC=C1 | C21H36
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-acetyl pentadecyl benzene | C(C)(=O)C(CCCC1=CC=CC=C1)CCCCCCCCCCC | C23H38O
